US05652271
A solution of bromine (9.9 ml) in dichloromethane (50 ml) was added dropwise at 10°-15° C. over 3 hours to a stirred solution of 1-[1-(3-chlorophenyl)cyclobutyl]-ethanone (38 g) in a mixture of methanol (75 ml) and dichloromethane (15 ml). When the addition was complete, the mixture was stirred at ambient temperature for 2.5 hours, then poured onto an excess of ice-water. The aqueous layer was separated and the product extracted into dichloromethane (3×90 ml). The combined organic solutions were washed with saturated aqueous sodium hydrogen carbonate solution (2×100 ml) and water (100 ml), dried over calcium chloride and the solvent removed in vacuo to leave 2-bromo-1-[1-(3-chlorophenyl)cyclobutyl]ethanone as an oil (47 g).

reactant | bromine | 9.9 ml | BrBr | Br2
reactant | 1-[1-(3-chlorophenyl)cyclobutyl]-ethanone | 38 g | ClC=1C=C(C=CC1)C1(CCC1)C(C)=O | C12H13ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | methanol | 75 ml | CO | CH4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-bromo-1-[1-(3-chlorophenyl)cyclobutyl]ethanone | 47 g | BrCC(=O)C1(CCC1)C1=CC(=CC=C1)Cl | C12H12BrClO
